US09024032B2
A suspension of 4-butylaniline (0.6 g, 4.1 mmol) and 5-(benzyloxy)-4-oxo-4H-pyran-2-carboxylic acid (1.0 g, 4.1 mmol) in a 1:1 mixture of AcOH:water (4 mL) was heated in a sealed reaction vessel at 120° C. for 72 h. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure, diluted with 10 mL 10% aq. NaOH, and extracted with EtOAc (3×10 mL). The organic fractions were pooled, dried (Na2SO4), and concentrated under reduced pressure to provide 3-(benzyloxy)-1-(4-butylphenyl)pyridin-4(1H)-one, which was used in the subsequent step without further purification. LC/MS (M+H)+ 334.

reactant | 4-butylaniline | 4.1 mmol, 0.6 g | C(CCC)C1=CC=C(N)C=C1 | C10H15N
reactant | 5-(benzyloxy)-4-oxo-4H-pyran-2-carboxylic acid | 4.1 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)C(=O)O)=O | C13H10O5
reactant | AcOH | CC(=O)O | C2H4O2
solvent | water | 4 mL | O | H2O
product | 3-(benzyloxy)-1-(4-butylphenyl)pyridin-4(1H)-one | C(C1=CC=CC=C1)OC1=CN(C=CC1=O)C1=CC=C(C=C1)CCCC | C22H23NO2
